US07521462B2
Thionyl chloride (1.04 ml, 14.4 mmol) is added to a stirred solution of 1,3-dimethyl-1H-pyrazole-5-carboxylic acid (0.5 g, 3.6 mmol) and dimethylformamide (3 drops). The reaction is stirred for 2 hours at room temperature and then for 2 hours at 80° C. The reaction is concentrated. The residue is dissolved in dichloromethane and then the solvent is evaporated to yield 1,3-dimethyl-1H-pyrazole-5-carbonyl chloride.

reactant | Thionyl chloride | 14.4 mmol, 1.04 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 1,3-dimethyl-1H-pyrazole-5-carboxylic acid | 3.6 mmol, 0.5 g | CN1N=C(C=C1C(=O)O)C | C6H8N2O2
catalyst | dimethylformamide | 3 drops | CN(C=O)C | C3H7NO
product | 1,3-dimethyl-1H-pyrazole-5-carbonyl chloride | CN1N=C(C=C1C(=O)Cl)C | C6H7ClN2O
